US07723381B2
9H-fluoren-9-ylmethyl(4-acetylcyclohexyl)carbamate:
13.10 g (32 mmol) of 9H-fluoren-9-ylmethyl[4-(2-methyl-[1,3]dioxolan-2-yl)cyclohexyl]carbamate (cis/trans mixture) and 1.30 g of p-toluenesulfonic acid are refluxed in 25 mL of water and 500 mL of acetone for 16 hours with stirring. Then the reaction mixture is concentrated by evaporation and the residue is dissolved in ethyl acetate and extracted with water. The organic phase is dried and evaporated to dryness. The residue is extracted with diisopropylether and suction filtered. Yield: 7.77 g (89%) of cis compound; NMR: LH201628.

reactant | 9H-fluoren-9-ylmethyl[4-(2-methyl-[1,3]dioxolan-2-yl)cyclohexyl]carbamate | 32 mmol, 13.10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C1(OCCO1)C)=O | C25H29NO4
reactant | p-toluenesulfonic acid | 1.30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | 9H-fluoren-9-ylmethyl(4-acetylcyclohexyl)carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C(C)=O)=O | C23H25NO3
